US06414149B1
Step D: (R)-2-[2-(1-Hydroxy-ethyl)-pyrimidin-4-yl]-1,2,3,4-tetrahydro-isoquinoline-7-sulfonic acid dimethylamide
To a solution of (R)-1-[4-(7-dimethylsulfamoyl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethyl acetate (prepared according to the method of Example 247, Step C, 326 mg, 0.81 mmol) in a 4:1 mixture of methanol/water (8 mL) was added lithium hydroxide hydrate (170 mg, 4.0 mmol). This mixture was stirred at room temperature for 50 min, concentrated, re-suspended in water, and extracted with 10% isopropanol/chloroform (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (1% methanol/chloroform) to give a white foam which was further purified by recrystallization from ether/methanol to give 90 mg (31%) of the title compound as a white solid. mp: 120.5-122° C.; 1H NMR (CDCl3, 300 MHz) δ8.24 (d, 1H), 7.62-7.59 (c, 2H), 7.35 (d, 1H), 6.44 (d, 1H), 4.83 (s, 2H), 4.73 (q, 1H), 4.34 (br s, 1H), 3.93-3.85 (c, 2H), 3.03 (t, 2H), 2.71 (s, 6H), 1.52 (d, 3H); MS (TS) 363 (MH+).

reactant | (R)-1-[4-(7-dimethylsulfamoyl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)N1CC2=CC(=CC=C2CC1)S(N(C)C)(=O)=O | C19H24N4O4S
reactant | lithium hydroxide hydrate | 4.0 mmol, 170 mg | O.[OH-].[Li+]
solvent | methanol water | 8 mL | CO.O
product | (R)-2-[2-(1-Hydroxy-ethyl)-pyrimidin-4-yl]-1,2,3,4-tetrahydro-isoquinoline-7-sulfonic acid dimethylamide | 90 mg, 31% | CN(S(=O)(=O)C1=CC=C2CCN(CC2=C1)C1=NC(=NC=C1)[C@@H](C)O)C | C17H22N4O3S
